US08748650B2
Under a nitrogen atmosphere, 571 mg (2 mmol) of N-phenoxycarbonyl-L-phenylalanine, 360 mg (6 mmol) of acetic acid, and 20 mL of acetonitrile were loaded into a two-necked round bottom flask having a volume of 100 mL and mounted with a Dimroth condenser, and then the mixture was stirred at 80° C. for 29 hours. The fact that N-carboxy-phenylalanine anhydride was obtained in a yield of 99% or more was confirmed by subjecting the reaction mixture to NMR determination. After the reaction mixture had been cooled to room temperature, 2 mL of a 1M aqueous solution of hydrochloric acid and 2,400 mg of activated carbon were added to the resultant, and then the mixture was stirred for 1 hour. The activated carbon was removed by filtration, and then the resultant filtrate was concentrated under reduced pressure. Thus, N-carboxy-phenylalanine anhydride was obtained. An isolation amount and an isolation yield were 302.5 mg and 78%, respectively.

reactant | N-phenoxycarbonyl-L-phenylalanine | 2 mmol, 571 mg | O(C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C16H15NO4
reactant | acetic acid | 6 mmol, 360 mg | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-carboxy-phenylalanine anhydride | yield of 99% or more | C(=O)(O)N[C@@H](CC1=CC=CC=C1)C(=O)OC([C@@H](NC(=O)O)CC1=CC=CC=C1)=O | C20H20N2O7
